US07850872B2
As shown in the following Reaction 6, 500 mg (2.15 mmol) of 4-iodobenzaldehyde was melted in 2.7 mL of tetrahydrofuran, and 0.45 mL (3.22 mmol, 1.5 eq) of trimethylsilylacetylene, 0.6 mL (3.44 mmol, 1.6 eq) of diisopropylethylamine (DIEA), 7 mg (0.01 mmol, 0.5 mol %) of dichlorobis-(triphenylphosphine)palladium(II), and 3 mg (0.02 mmol, 1 mol %) of copper iodide was added thereto, and then the reaction solution was stirred under nitrogen atmosphere for 12 hours at room temperature. Next, the reaction solution was filtered with ether, and then was extracted with 1M sodium chloride aqueous solution 1 time. The organic solvent layer was dehydrated with magnesium sulfate, filtered, and then distilled under reduced pressure. The compound distilled under reduced pressure was purified with a column chromatography (mobile phase volume ratio; ethylacetate:n-hexane=1:10) to obtain 420 mg of 4-trimethylsilylethynyl benzaldehyde with the yield of 98%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 9.81 (s, 1H), 7.63 (d, 2H), 7.42 (d, 2H), 0.13 (s, 9H)].

reactant | 4-iodobenzaldehyde | 2.15 mmol, 500 mg | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | trimethylsilylacetylene | 3.22 mmol, 0.45 mL, 1.5 eq | C[Si](C)(C)C#C | C5H10Si
reactant | diisopropylethylamine | 3.44 mmol, 0.6 mL, 1.6 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 2.7 mL | O1CCCC1 | C4H8O
catalyst | dichlorobis-(triphenylphosphine)palladium(II) | 0.01 mmol, 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.02 mmol, 3 mg | [Cu](I)I
product | 4-trimethylsilylethynyl benzaldehyde | 420 mg, yield of 98% | C[Si](C)(C)C#CC1=CC=C(C=O)C=C1 | C12H14OSi
